* C:\Users\Unixt\OneDrive\Documents\MPLAB Mindi\untitledtest.wxsch
*#SIMETRIX
V1 V1_P 0 5
R1 V1_P R1_N 5k
R2 V1_P R2_N 5k
R3 R2_N 0 5k
R4 R1_N 0 5k
.GRAPH "V(R2_N)-V(R1_N)" axisType="auto" persistence=-1 curveLabel="Bridge" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.TRAN 1m

